Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
altered mental status
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old female with history of depression, anxiety, colon 
cancer s/p resection, multiple falls and recent hospitalization 
on the neurosurgery service for small right IPH and left fibular 
fracture in the setting of a fall who was discharged to 
___ rehab ___ now presenting from rehab with 
encephalopathy.  
 During pt's recent hospitalization ___ to ___, CTA head/neck 
and MRI were performed demonstrated a right frontal IPH 
associated with a likely venous malformation. An underlying 
metastatic lesion could not be ruled out. In addition, imaging 
demonstrated a 5-6mm aneurysm at the right MCA bifurcation. Pt 
was also found to have a left ankle fibular fracture and was 
ultimately discharged to rehab with a boot in place per ___. 
At ___, pt became increasing encephalopathic and was 
noted to be confabulating. Per records, she was ordered for 
levaquin, ciprofloxacin, and zosyn ___ prior to being 
transferred to the ___ ED for evaluation. No further 
documentation was provided in the chart.  
 In the ED, initial vital signs were: 99.5 80 147/81 18 98% RA  
 - Exam was notable for: AO x 2, pupils sluggish but reactive 
bilaterally, ___ strength throughout  
 - Labs were notable for: WBC 13.6, H/H 10.8/31.2, plts 377, Na 
141, K 2.9 -> recheck 2.6, BUN/Cr ___, ALT 63, AST 62, AP 74, 
total bili 0.5, albumin 3.0, lipase 62, INR 1.2, lactate 1.3  
 - UA demonstrated 5 WBCs, no bacteria, negative nitrites, large 
leuks  
 - Blood cx x 2 and Urine cx x 1 were obtained  
 - Serum tox screen was negative  
 - Imaging: CT head without contrast demonstrated a persistent 
hyperdense focus in the right frontal lobe, unchanged from 
prior. CXR demonstrated a right basilar opacity compatible with 
aspiration and/or infection that is not dramatically different 
from prior.  
 - The patient was given: Ativan 2mg IV x 1, Magnesium sulfate 
2g IV x 1, 1L D5NS with 40mEq KCl  
 - Consults: Neurosurgery was consulted in the ED and given 
stability of IPH on CT recommended admission to medicine for 
management of encephalopathy  
 Vitals prior to transfer were: 98.2 67 123/57 22 95% RA  
 Upon arrival to the floor, pt is sleeping but arousable. She 
denies acute complaints, but is disoriented.  
 
Past Medical History:
Depression  
 Anxiety  
 h/o collapsed lung  
 h/o colon CA s/p resection  
 s/p basal cell carcinoma  
 bilateral cataracts  
 s/p multiple surgeries of which the patient is unable to recall 
 
 Fall ___ complicated by right frontal IPH and left fibular 
fracture  

 
Social History:
___
Family History:
non-contributory 
 
Physical Exam:
===========================
ADMISSION PHYSICAL EXAM:
===========================
VITALS - 98.6 152/81 81 19 94% on RA  
 GENERAL - Sleeping, arousable, not oriented, able to answer yes 
no questions  
 HEENT - normocephalic, atraumatic, no conjunctival pallor or 
scleral icterus, PERRLA, EOMI  
 NECK - JVP flat  
 CARDIAC - regular rate & rhythm, normal S1/S2, no murmurs rubs 
or gallops  
 PULMONARY - clear to auscultation bilaterally, without wheezes 
or rhonchi  
 ABDOMEN - normal bowel sounds, soft, non-tender, non-distended, 
no organomegaly  
 EXTREMITIES - warm, well-perfused, no cyanosis, clubbing or 
edema  
 SKIN - without rash  
 NEUROLOGIC - Not oriented, arousable but inattentive, quick to 
return to sleep, moves all 4 extremities  
 PSYCHIATRIC - Disoriented  

===========================
DISCHARGE PHYSICAL EXAM:
===========================
 Vitals:  98.3  97.8  163/68  66  16  96%RA
 GENERAL - Alert, oriented x3
 HEENT: Sclerae anicteric, EOMI, MMM
 NECK: JVP flat
 RESP: Good air movement on L, moderate air movement at R base, 
good air movement at R midlung and apex, no WRR. Continues to 
have junky cough.
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
 ABD: vertical midline incision scar, hypoactive BS, soft, 
nondistended, nontender to palpation. No masses. No suprapubic 
tenderness
 GU: no foley
 EXT: warm, well perfused, 2+ DP and ___ pulses, no clubbing, 
cyanosis or edema  
 NEURO: CNs2-12 intact, no focal neurologic deficits
 
Pertinent Results:
===========================
ADMISSION LABS:
===========================
___ 08:15PM BLOOD WBC-13.6* RBC-3.39* Hgb-10.8* Hct-31.2* 
MCV-92 MCH-31.9 MCHC-34.6 RDW-12.5 RDWSD-42.0 Plt ___
___ 08:15PM BLOOD Neuts-81.1* Lymphs-6.9* Monos-9.9 
Eos-0.2* Baso-0.4 Im ___ AbsNeut-11.04* AbsLymp-0.94* 
AbsMono-1.35* AbsEos-0.03* AbsBaso-0.05
___ 08:15PM BLOOD Glucose-111* UreaN-26* Creat-0.6 Na-141 
K-2.9* Cl-103 HCO3-25 AnGap-16
___ 08:15PM BLOOD ALT-63* AST-62* AlkPhos-74 TotBili-0.5
___ 08:15PM BLOOD Albumin-3.0* Calcium-9.1 Phos-3.3 Mg-1.7
___ 08:15PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 08:24PM BLOOD Lactate-1.3 K-2.6*

===========================
PERTINENT LABS:
===========================
___ 05:20AM BLOOD VitB12-885
___ 05:20AM BLOOD TSH-4.1
___ 07:25AM BLOOD WBC-17.0* RBC-3.60* Hgb-11.4 Hct-33.6* 
MCV-93 MCH-31.7 MCHC-33.9 RDW-12.4 RDWSD-42.6 Plt ___

===========================
DISCHARGE LABS:
===========================
___ 05:35AM BLOOD WBC-10.6* RBC-3.89* Hgb-12.2 Hct-36.6 
MCV-94 MCH-31.4 MCHC-33.3 RDW-12.3 RDWSD-42.4 Plt ___
___ 05:35AM BLOOD Glucose-77 UreaN-10 Creat-0.6 Na-139 
K-4.5 Cl-100 HCO3-30 AnGap-14
___ 05:35AM BLOOD Calcium-8.7 Phos-3.5 Mg-1.6

===========================
IMAGING:
===========================
CT Head w/o Contrast ___
IMPRESSION:  
Motion degraded exam without evidence of acute intracranial 
process. 
Persistent hyperdense focus in the right frontal lobe, unchanged 
from prior, which likely represents a cavernoma however followup 
as per recommendations on prior MRI report are suggested. 

CXR ___
IMPRESSION:  
Compared to prior chest radiographs ___. 
Small right pleural effusion and heterogeneous opacification at 
the right base have increased concerning for pneumonia.  
Pulmonary vascular pattern suggests mild heart failure and 
setting of emphysema. 
11 mm right lung nodule conforms to lesion seen on chest CTA 
___. 

 
Brief Hospital Course:
================================
PRIMARY REASON FOR ADMISSION:
================================
___ yo F with a history of colon cancer, depression, anxiety, and 
a recent admission to neurosurgery ___ to ___ for fall, small R 
IPH, and L fibular fracture who is now readmitted from ___ 
rehab with altered mental status, found to have a RLL pneumonia. 


================================
ACTIVE ISSUES:
================================
# Altered mental status: The patient presented with altered 
mental status after recent discharge from neurosurgical service 
with IPH. On admission, she was oriented x1, disorganized and 
with loose associations. Repeat CT scan did not show any 
evidence of worsening bleed.  TSH, B12, and RPR were negative.  
She was found to have HCAP on chest imaging with clinical signs 
and symptoms of pneumonia (see below). With antibiotics, her 
mental status improved to A&Ox3 although she did have 
intermittent delirium and anxiety during hospital stay.

#HCAP: The patient had leukocytosis, productive cough, AMS and 
imaging consistent with pneumonia. She received 72hours of 
vancomycin, cefepime, flagyl and was transitioned to po 
levofloxacin (last day ___. She was evaluated by SLP and not 
felt to be at risk for aspiration.

#Hypoxia: The patient also developed a new oxygen requirement 
during admission of 2L, felt secondary to both HCAP and some 
pulmonary edema. She does not carry a diagnosis of congestive 
heart failure although did improve with 20mg IV Lasix. She was 
off of oxygen at the time of discharge. Would benefit from 
monitoring of O2 saturations and possible outpatient TTE.

#Lung nodule: Patient has 11mm  speculated R lung nodule seen on 
CT chest of ___ and CTA of ___. After discussion with the 
patient and her family, further workup will be deferred to the 
outpatient setting with her PCP.

#Diarrhea: Pt had 4x loose BM on ___ with WBC peaking at 17.0 
on that day. However afebrile, no abdominal pain, with stool C. 
diff antigen negative. With decrease in bowel regimen, her 
diarrhea improved.

================================
CHRONIC ISSUES:
================================
#IPH, R frontal cavernous malformation: Bleed stable on ___. 
She will continue keppra with outpatient Neurosurgery follow up.
 
#L fibula fracture: She should continue wearing her L ankle boot 
with physical therapy. 

#Depression: Home sertraline was continued. She may benefit from 
dose adjusting or adding another agent to help with anxiety. 

================================
TRANSITIONAL ISSUES:
================================
[ ] Please continue to counsel and discuss with patient her 
options regarding further workup of her incidentally found R 
lung nodule (PET scan, CT-guided biopsy). Given clinical history 
and imaging, this is concerning for possible malignancy. 
Outpatient PCP is ___. Please make sure she has close follow 
up with Dr.  ___ ___
[ ] Patient is still intermittently confused despite improvement 
of her pneumonia, which per her family is not quite her baseline 
mental status pre-fall. She will need further follow-up to 
monitor and work up her mental status. Would recommend delirium 
precautions
[ ] Follow up pending blood cultures
[ ] On the floor, patient has had systolic BPs in the 150s-160s, 
without any symptoms. she may benefit from workup and treatment 
of her hypertension.
[ ] Should have non-urgent thyroid ultrasound for incidental 
thyroid nodule (TSH wnl)
[ ] ___ benefit from TTE given HTN and evidence of volume 
overload requiring low dose Lasix during admission
[ ] ___ benefit from further management of her anxiety 
[ ] HCP: ___ ___
[ ] Full code
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 325-650 mg PO Q6H:PRN pain 
2. Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
3. Docusate Sodium 100 mg PO BID 
4. Heparin 5000 UNIT SC BID 
5. LeVETiracetam 500 mg PO BID 
6. Senna 8.6 mg PO BID:PRN constipation 
7. Sertraline 100 mg PO DAILY 

 
Discharge Medications:
1. Sertraline 100 mg PO DAILY 
2. Senna 8.6 mg PO BID:PRN constipation 
3. LeVETiracetam 500 mg PO BID 
4. Acetaminophen 325-650 mg PO Q6H:PRN pain 
5. Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
6. Docusate Sodium 100 mg PO BID 
7. Heparin 5000 UNIT SC BID 
8. Levofloxacin 750 mg PO DAILY Duration: 2 Doses 
Please take 750mg daily on ___ and ___. 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
altered mental status
pneumonia

Secondary diagnoses
Intra-parenchymal hemorrhage
fibular fracture
depression

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital for investigation of your 
confusion and change in your mental status. As you know, you 
were admitted to ___ from ___ to ___nd were 
discharged to ___ rehab. There, your caregivers were 
concerned that you were confused and behaving differently than 
usual, so you were transferred back to ___ for further care. 
Here, you had a head CT done that showed no change in the 
appearance of the blood in your brain from your fall, and a 
chest x-ray that showed a new pneumonia in your right lung 
(which was likely contributing to your confusion). You were 
started on antibiotics by IV (eventually changed to antibiotics 
by mouth) to treat your pneumonia. During your time here your 
breathing and cough improved and you also demonstrated that you 
were thinking more clearly as your pneumonia improved. 
Additionally, you were also given two doses of a medication 
called Lasix to help you urinate more and get rid of some of the 
extra fluid you had in your system, which also helped with your 
breathing.

As you know, during your prior hospitalization you had a CT scan 
of your chest that incidentally showed a nodule in the upper 
part of your right lung, which could potentially be cancerous, 
either from the lung itself or from elsewhere in the body such 
as the colon. This nodule was seen again during chest x-rays 
that you received during this hospital stay. You should follow 
up with your primary care physician to discuss options and make 
a plan for potentially getting more diagnostic studies of this 
nodule.

Thank you so much for allowing us to be a part of your care.

Best,
Your ___ Medicine Care Team
 
Followup Instructions:
___